US04409150
Cis-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropane carboxylic acid (199 g, 0.95 M) was added to a solution of potassium carbonate (65.6 g, 0.475 M) in water (450 ml). Toluene (900 ml), tetra-n-butylammonium bromide (13.5 g, 0.05 M) and alpha-cyano-3-phenoxybenzyl p-toluenesulphonate (341 g, 0.9 M; prepared as described in A above) were added to the stirred mixture which was then heated at 70° C. for 3 hours. The mixture was cooled to ambient temperature and the organic phase was separated off, washed with aqueous potassium carbonate solution (2×200 ml) and water (2×200 ml), evaporated and degassed under vacuum to leave cis-alpha-cyano-3-phenoxybenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate as a pale amber oil (364 g, 97.3%), containing less than 1% trans-isomers.

reactant | Cis-3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropane carboxylic acid | 0.95 M, 199 g | ClC(=C[C@H]1C([C@H]1C(=O)O)(C)C)Cl | C8H10Cl2O2
reactant | potassium carbonate | 0.475 M, 65.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | Toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
reactant | alpha-cyano-3-phenoxybenzyl p-toluenesulphonate | C1(=CC=C(C=C1)S(=O)(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C21H17NO4S
solvent | water | 450 ml | O | H2O
catalyst | tetra-n-butylammonium bromide | 0.05 M, 13.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | cis-alpha-cyano-3-phenoxybenzyl 3-(2,2-dichlorovinyl)-2,2-dimethylcyclopropanecarboxylate | 364 g, 97.3% | ClC(=C[C@H]1C([C@H]1C(=O)OC(C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)(C)C)Cl | C22H19Cl2NO3
